US05200110
86 g (0.32) of 4-bromobenzimidate hydrogen chloride was added to 240 cm3 of ethanol saturated with gaseous ammonia and stirred at room temperature overnight. Approximately one-half of the volume of the ethanol was distilled off and the residual solution was recrystallized to yield 57 g (0.24 mol) of 4-bromobenzamidine hydrogen chloride.

reactant | 4-bromobenzimidate hydrogen chloride | 86 g | Cl.BrC1=CC=C(C(O)=N)C=C1
reactant | ammonia | N | H3N
solvent | ethanol | 240 cm3 | C(C)O | C2H6O
product | 4-bromobenzamidine hydrogen chloride | 0.24 mol, 57 g | Cl.BrC1=CC=C(C(=N)N)C=C1 | InChI=1S/C7H7BrN2.ClH/c8-6-3-1-5(2-4-6)7(9)10;/h1-4H,(H3,9,10);1H
